* File: FAX1.pex.netlist.pex
* Created: Mon Jun  5 11:42:39 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_FAX1%D_VDD 1 4 9 10 17 18 23 24 29 30 37 42 54 55 56 57 58
c74 58 0 0.07126f
c75 57 0 0.0622931f
c76 56 0 0.084497f
c77 55 0 0.0779736f
c78 54 0 0.0610289f
c79 48 0 0.0467475f
c80 47 0 0.0458872f
c81 46 0 0.0467475f
c82 45 0 0.0467475f
c83 44 0 0.0458872f
c84 42 0 0.470856f
c85 37 0 0.179418f
c86 30 0 0.821562f
c87 29 0 0.110149f
c88 24 0 0.27578f
c89 23 0 0.170397f
c90 18 0 0.373574f
c91 17 0 0.157949f
c92 10 0 0.611778f
c93 9 0 0.103228f
c94 4 0 0.468175f
r95 38 48 0.0231002
r96 37 48 0.0225187
r97 36 58 0.0566888
r98 36 37 0.325833
r99 31 47 0.0231002
r100 30 48 0.0231002
r101 29 47 0.0225187
r102 28 57 0.0566888
r103 28 29 0.325833
r104 25 46 0.0231002
r105 24 47 0.0231002
r106 23 46 0.0225187
r107 22 56 0.0566888
r108 22 23 0.325833
r109 19 45 0.0231002
r110 18 46 0.0231002
r111 17 45 0.0225187
r112 16 55 0.0566888
r113 16 17 0.325833
r114 11 44 0.0231002
r115 10 45 0.0231002
r116 9 44 0.0225187
r117 8 54 0.0566888
r118 8 9 0.325833
r119 4 44 0.0231002
r120 1 42 0.136
r121 1 38 0.1275
r122 1 30 0.2295
r123 1 31 0.119
r124 1 24 0.238
r125 1 25 0.034
r126 1 18 0.187
r127 1 19 0.1275
r128 1 10 0.0935
r129 1 11 0.2295
r130 1 4 0.1275
.ends

.subckt PM_FAX1%N$3 3 4 6 7 8 10
c25 10 0 0.0298353f
c26 8 0 0.0284008f
c27 7 0 0.172711f
c28 6 0 0.028972f
c29 4 0 0.0613032f
c30 3 0 0.060477f
r31 9 10 0.085
r32 7 9 0.0474919
r33 7 8 0.51
r34 5 8 0.0474919
r35 5 6 0.085
r36 4 10 0.0519666
r37 3 6 0.0519666
.ends

.subckt PM_FAX1%D_GND 1 7 8 9 10 11 13 14 17 19 21 23 25 36 42 48 51
c80 51 0 0.953056f
c81 49 0 0.0467475f
c82 48 0 0.711288f
c83 43 0 0.0458872f
c84 42 0 0.309567f
c85 37 0 0.0458872f
c86 36 0 0.299388f
c87 25 0 0.148015f
c88 23 0 0.0904106f
c89 21 0 0.121138f
c90 19 0 0.098054f
c91 17 0 0.0293847f
c92 15 0 0.0694059f
c93 14 0 0.225191f
c94 13 0 0.281742f
c95 12 0 0.161461f
c96 11 0 0.0938012f
c97 10 0 0.0577649f
c98 9 0 0.0750941f
c99 8 0 0.0625359f
c100 7 0 0.0601293f
c101 1 0 0.530611f
r102 48 49 0.0231002
r103 47 49 0.0231002
r104 42 43 0.0231002
r105 41 43 0.0231002
r106 36 37 0.0231002
r107 35 37 0.0231002
r108 24 49 0.0225187
r109 24 25 0.2975
r110 22 43 0.0225187
r111 22 23 0.2975
r112 20 37 0.0225187
r113 20 21 0.2975
r114 18 19 0.2975
r115 16 17 0.085
r116 14 17 0.0474919
r117 14 15 0.40375
r118 13 15 0.0474919
r119 12 13 0.51
r120 11 25 0.0519666
r121 10 23 0.0519666
r122 9 21 0.0519666
r123 8 19 0.0519666
r124 7 16 0.0519666
r125 1 18 0.0225187
r126 1 51 0.0231002
r127 1 57 0.0231002
r128 1 12 0.0295407
r129 1 52 0.0219173
r130 1 47 0.1275
r131 1 48 0.2295
r132 1 41 0.221
r133 1 42 0.136
r134 1 35 0.17
r135 1 36 0.187
r136 1 57 0.1105
r137 1 51 0.2465
r138 1 52 0.24225
.ends

.subckt PM_FAX1%N$16 2 3 5 9 13 17 24 26 27 29 30 31 32 33 35 37 38 40 43 45 50
+ 52 56 57 58 61 64
c151 64 0 0.262519f
c152 61 0 0.0770546f
c153 58 0 0.113834f
c154 57 0 0.147927f
c155 56 0 0.018581f
c156 52 0 0.0860755f
c157 50 0 0.0410181f
c158 45 0 0.0228838f
c159 43 0 0.0366352f
c160 40 0 0.45025f
c161 38 0 0.120183f
c162 37 0 0.0373365f
c163 35 0 0.0823111f
c164 33 0 0.0259825f
c165 32 0 0.0624939f
c166 31 0 0.0312837f
c167 30 0 0.0603003f
c168 29 0 0.104339f
c169 27 0 0.355577f
c170 26 0 0.23614f
c171 24 0 0.162508f
c172 13 0 0.208003f
c173 9 0 0.204158f
c174 5 0 0.818087f
c175 3 0 0.229234f
c176 2 0 0.0658024f
r177 57 65 15.2843
r178 57 64 15.2843
r179 56 58 0.0519666
r180 56 57 7
r181 52 54 0.131739
r182 52 53 7
r183 45 58 0.255
r184 43 45 0.0474919
r185 42 43 0.085
r186 41 54 0.0138203
r187 40 42 0.0474919
r188 40 41 1.53
r189 39 50 0.0359928
r190 38 52 0.0138203
r191 38 39 0.481667
r192 37 50 0.00935391
r193 37 49 0.10625
r194 35 61 0.0566888
r195 34 35 0.283333
r196 32 34 0.0474919
r197 32 33 0.177083
r198 30 50 0.0359928
r199 30 31 0.240833
r200 29 33 0.0474919
r201 28 31 0.0474919
r202 28 29 0.375417
r203 26 27 16.6389
r204 26 65 79.1667
r205 22 24 25
r206 18 24 1.46822
r207 18 64 87.5
r208 17 27 45.8333
r209 11 22 1.46822
r210 11 13 37.5
r211 7 53 22.9048
r212 7 9 37.5
r213 3 53 15.2125
r214 3 5 250
r215 2 49 0.0519666
.ends

.subckt PM_FAX1%CO 2 4 6 10 14 23
c42 23 0 0.160413f
c43 10 0 0.0441648f
c44 6 0 0.0441648f
c45 4 0 0.202527f
c46 2 0 0.106151f
r47 14 23 0.0440741
r48 10 23 1
r49 4 10 0.0469244
r50 3 6 0.0469244
r51 3 4 0.922857
r52 2 6 1
.ends

.subckt PM_FAX1%N$89 3 4 6 7 8 10 11 12 14
c49 14 0 0.0271705f
c50 12 0 0.0152053f
c51 11 0 0.183963f
c52 10 0 0.0755468f
c53 8 0 0.026718f
c54 7 0 0.0746021f
c55 6 0 0.0268933f
c56 4 0 0.0625481f
c57 3 0 0.0636569f
r58 13 14 0.085
r59 11 13 0.0474919
r60 11 12 0.65875
r61 9 12 0.0474919
r62 9 10 0.2975
r63 7 10 0.0474919
r64 7 8 0.460417
r65 6 8 0.0474919
r66 5 6 0.085
r67 4 14 0.0519666
r68 3 5 0.0519666
.ends

.subckt PM_FAX1%N$102 2 7 11 14 16 19 20 21 22 24 25 31 33 34 37 39 43
c66 43 0 0.0684839f
c67 39 0 0.483202f
c68 37 0 0.0651284f
c69 34 0 0.160312f
c70 33 0 0.0284121f
c71 25 0 0.0741728f
c72 24 0 0.077412f
c73 22 0 0.0326029f
c74 21 0 0.0794347f
c75 20 0 0.0244137f
c76 19 0 0.112819f
c77 16 0 0.0952751f
c78 14 0 0.0925885f
c79 11 0 0.216486f
c80 7 0 0.334619f
c81 2 0 0.0660097f
r82 37 43 0.0566888
r83 34 40 15.219
r84 34 39 15.219
r85 33 34 7
r86 26 31 0.0359928
r87 25 33 0.0519666
r88 25 26 0.141667
r89 24 31 0.00935391
r90 23 24 0.354167
r91 21 31 0.0359928
r92 21 22 0.2975
r93 19 23 0.0474919
r94 19 20 0.34
r95 17 22 0.0474919
r96 17 43 0.2125
r97 16 20 0.0474919
r98 16 30 0.255
r99 14 39 160.417
r100 13 14 21.4286
r101 11 13 37.5
r102 7 40 77.0833
r103 2 30 0.0519666
.ends

.subckt PM_FAX1%S 2 4 10 13 15
c12 13 0 0.210218f
c13 4 0 0.528441f
c14 2 0 0.109067f
r15 13 15 0.0430083
r16 10 13 0.0117295
r17 4 13 0.0293707
r18 4 8 0.991667
r19 2 8 0.0519666
.ends

.subckt PM_FAX1%N$20 2 3 6 9 10
c21 10 0 0.0673477f
c22 9 0 0.111883f
c23 6 0 0.0234966f
c24 4 0 0.068699f
c25 3 0 0.154687f
c26 2 0 0.0452766f
r27 6 10 0.0566888
r28 5 6 0.085
r29 3 5 0.0474919
r30 3 4 0.453333
r31 2 9 0.0566888
r32 1 4 0.0474919
r33 1 2 0.085
.ends

.subckt PM_FAX1%N$65 2 3 4 6 7 8 10 13 14
c41 14 0 0.0665205f
c42 13 0 0.0701554f
c43 10 0 0.0254983f
c44 8 0 0.0312776f
c45 7 0 0.154364f
c46 6 0 0.0856803f
c47 4 0 0.03623f
c48 3 0 0.14992f
c49 2 0 0.0283336f
r50 9 14 0.0566888
r51 9 10 0.085
r52 7 10 0.0474919
r53 7 8 0.453333
r54 6 8 0.0474919
r55 5 6 0.311667
r56 3 5 0.0474919
r57 3 4 0.7225
r58 2 13 0.0566888
r59 1 4 0.0474919
r60 1 2 0.085
.ends

.subckt PM_FAX1%A 3 8 9 10 14 18 19 20 22 25 30 31 36 39 42 46 50 54 56 59
c144 59 0 0.151383f
c145 56 0 0.0512731f
c146 54 0 0.340036f
c147 52 0 0.0512656f
c148 50 0 0.13351f
c149 46 0 0.139019f
c150 42 0 0.155878f
c151 36 0 0.910709f
c152 31 0 0.782828f
c153 30 0 0.234381f
c154 25 0 0.911274f
c155 22 0 0.331703f
c156 20 0 0.0698894f
c157 19 0 1.2345f
c158 18 0 0.438749f
c159 14 0 0.305552f
c160 10 0 0.0886366f
c161 9 0 0.925659f
c162 8 0 0.498598f
c163 3 0 0.733065f
r164 59 63 15.2843
r165 59 62 15.2843
r166 56 59 7
r167 53 54 21.4286
r168 48 50 20.8333
r169 44 46 25
r170 40 42 29.1667
r171 39 54 45.8333
r172 36 53 266.667
r173 33 36 62.5
r174 32 52 10.5861
r175 31 33 13.9682
r176 31 32 266.667
r177 28 50 1.46822
r178 28 30 37.5
r179 27 52 2.75115
r180 27 30 62.5
r181 23 48 1.46822
r182 23 25 275
r183 22 42 1.46822
r184 21 46 1.46822
r185 21 22 129.167
r186 19 52 10.5861
r187 19 20 408.333
r188 16 44 1.46822
r189 16 18 112.5
r190 15 20 13.9682
r191 15 18 62.5
r192 12 14 79.1667
r193 11 40 1.46822
r194 11 14 45.8333
r195 9 12 13.9682
r196 9 10 291.667
r197 8 63 106.25
r198 6 10 13.9682
r199 6 8 79.1667
r200 3 62 193.75
.ends

.subckt PM_FAX1%B 3 7 8 9 10 12 16 20 26 29 31 32 37 42 44 47 50 52 54 55 56 61
+ 62 64 66 67 68 71 74
c150 74 0 0.455067f
c151 71 0 0.411719f
c152 68 0 0.266471f
c153 67 0 0.146641f
c154 66 0 0.0295232f
c155 62 0 0.145401f
c156 61 0 0.105893f
c157 56 0 0.0745486f
c158 55 0 0.578121f
c159 54 0 0.0779486f
c160 52 0 0.097304f
c161 50 0 0.0858608f
c162 47 0 0.155446f
c163 44 0 0.328918f
c164 42 0 0.30615f
c165 37 0 0.17251f
c166 32 0 0.0708842f
c167 31 0 0.707585f
c168 29 0 0.198869f
c169 26 0 0.445323f
c170 20 0 0.0802534f
c171 16 0 0.256508f
c172 10 0 0.225649f
c173 9 0 0.0886366f
c174 8 0 0.494393f
c175 7 0 0.993719f
r176 67 75 15.2843
r177 67 74 15.2843
r178 66 68 0.0519666
r179 66 67 7
r180 62 72 15.2843
r181 62 71 15.2843
r182 61 64 0.14449
r183 61 62 7
r184 59 61 0.00498242
r185 58 59 0.0194945
r186 58 68 0.878333
r187 55 56 21.4286
r188 54 55 204.167
r189 53 54 21.4286
r190 52 74 145.833
r191 51 52 21.4286
r192 50 71 141.667
r193 49 50 21.4286
r194 45 47 29.1667
r195 43 44 18.7188
r196 42 56 45.8333
r197 40 42 79.1667
r198 37 53 37.5
r199 31 40 13.9682
r200 31 32 212.5
r201 29 51 37.5
r202 26 75 91.6667
r203 24 32 13.9682
r204 24 26 79.1667
r205 20 47 1.46822
r206 20 72 29.1667
r207 16 49 37.5
r208 13 16 62.5
r209 10 45 1.46822
r210 10 12 41.6667
r211 8 13 13.9682
r212 8 9 150
r213 7 43 266.667
r214 4 9 13.9682
r215 4 7 62.5
r216 3 44 45.8333
.ends

.subckt PM_FAX1%CI 3 7 13 17 21 24 25 27 29 32 34 37 38 41 44 49 51 52 60
c130 60 0 0.413344f
c131 52 0 0.136577f
c132 51 0 0.0399913f
c133 49 0 0.143755f
c134 44 0 0.262121f
c135 41 0 0.052895f
c136 38 0 0.144091f
c137 37 0 0.0382188f
c138 34 0 0.333757f
c139 32 0 0.140606f
c140 29 0 0.109544f
c141 25 0 0.238395f
c142 24 0 0.0788737f
c143 21 0 0.674092f
c144 17 0 0.213199f
c145 13 0 0.384799f
c146 7 0 0.476034f
c147 3 0 0.646444f
r148 54 56 11.1111
r149 52 64 15.2843
r150 52 63 15.2843
r151 51 52 7
r152 49 61 15.2843
r153 49 60 15.2843
r154 48 49 7
r155 44 56 15.2778
r156 41 45 0.0566667
r157 41 44 7
r158 39 48 0.0224962
r159 38 51 0.0519666
r160 38 39 0.609167
r161 37 48 0.0249958
r162 36 37 0.085
r163 35 45 0.0216719
r164 34 36 0.0474919
r165 34 35 1.43083
r166 30 32 20.8333
r167 29 60 141.667
r168 28 29 16.6389
r169 25 32 1.46822
r170 25 27 45.8333
r171 24 30 1.46822
r172 24 64 25
r173 21 63 204.167
r174 17 28 37.5
r175 13 61 95.8333
r176 5 56 6.3741
r177 5 7 122.917
r178 1 54 6.3741
r179 1 3 177.083
.ends

