* File: HAX1.pex.netlist.pex
* Created: Tue Jan 31 10:49:15 2017
* Program "Calibre xRC"
* Version "v2015.4_33.23"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HAX1%D_VDD 1 4 9 10 15 16 20 21 26 36 37 38
c45 38 0 0.11314f
c46 37 0 0.0682202f
c47 36 0 0.0592623f
c48 32 0 0.0467475f
c49 30 0 0.0467475f
c50 26 0 0.467489f
c51 21 0 0.110881f
c52 20 0 0.0316436f
c53 16 0 0.435001f
c54 15 0 0.124552f
c55 10 0 0.317026f
c56 9 0 0.180521f
c57 4 0 0.445119f
c58 1 0 0.0467475f
r59 31 38 0.122778
r60 22 32 0.0231002
r61 21 32 0.0225187
r62 20 31 0.0472333
r63 20 21 0.23375
r64 17 30 0.0231002
r65 16 32 0.0231002
r66 15 30 0.0225187
r67 14 37 0.0566888
r68 14 15 0.332917
r69 10 30 0.0231002
r70 8 36 0.0519666
r71 8 9 0.375417
r72 1 9 0.0225187
r73 1 4 0.0231002
r74 1 11 0.0231002
r75 1 26 0.136
r76 1 22 0.12325
r77 1 16 0.23375
r78 1 17 0.16575
r79 1 10 0.19125
r80 1 11 0.11475
r81 1 4 0.24225
.ends

.subckt PM_HAX1%CO 2 6 11 12 15
c23 15 0 0.171841f
c24 12 0 0.0872909f
c25 11 0 0.092766f
c26 6 0 0.280084f
c27 2 0 0.0934427f
r28 15 16 0.07225
r29 11 13 0.0526179
r30 11 12 0.0526179
r31 6 16 0.025958
r32 6 13 0.524167
r33 3 12 0.162917
r34 2 3 0.0519666
.ends

.subckt PM_HAX1%D_GND 1 5 6 7 9 10 15 20 23 28
c33 28 0 0.646422f
c34 24 0 0.0467475f
c35 23 0 0.434573f
c36 21 0 0.0458872f
c37 20 0 0.422451f
c38 15 0 0.248874f
c39 10 0 0.114015f
c40 9 0 0.101524f
c41 6 0 0.082037f
c42 1 0 0.498503f
r43 23 24 0.0231002
r44 22 24 0.0231002
r45 20 21 0.0231002
r46 19 21 0.0231002
r47 14 24 0.0225187
r48 14 15 0.2975
r49 8 21 0.0225187
r50 8 9 0.2975
r51 7 15 0.0291697
r52 7 10 0.0208355
r53 7 10 0.0661111
r54 6 9 0.0519666
r55 1 28 0.0545826
r56 1 5 0.039489
r57 1 5 0.013163
r58 1 22 0.119
r59 1 23 0.238
r60 1 19 0.17
r61 1 20 0.187
r62 1 28 0.21675
.ends

.subckt PM_HAX1%AndOUT 2 3 5 7 8 10 13 17 19 22 24 25 26 30 32 33 35 41 44 46 47
+ 49 50 53 54 57 61 71
c123 71 0 0.0236215f
c124 61 0 0.218391f
c125 57 0 0.0657976f
c126 54 0 0.165357f
c127 53 0 0.0318805f
c128 50 0 0.159431f
c129 49 0 0.0220973f
c130 47 0 0.00465958f
c131 46 0 0.00226664f
c132 44 0 0.0177506f
c133 41 0 0.0241227f
c134 35 0 0.0604298f
c135 33 0 0.0207721f
c136 32 0 0.0106654f
c137 30 0 0.00912566f
c138 26 0 0.0128051f
c139 25 0 0.0412366f
c140 24 0 0.0132922f
c141 22 0 0.0609445f
c142 19 0 0.0692429f
c143 17 0 0.26519f
c144 13 0 0.394228f
c145 8 0 0.255071f
c146 7 0 0.645157f
c147 3 0 0.245499f
c148 2 0 0.0852761f
r149 57 71 0.0469244
r150 54 68 15.2843
r151 53 54 7
r152 50 64 15.2843
r153 49 50 7
r154 39 61 12.5
r155 39 58 8.33333
r156 38 41 0.0519666
r157 38 39 7
r158 36 46 0.0229752
r159 35 53 0.0519666
r160 35 36 0.290417
r161 34 47 0.00935391
r162 33 49 0.0519666
r163 33 34 0.0920833
r164 32 46 0.0195743
r165 31 47 0.0359928
r166 31 32 0.10625
r167 30 47 0.0359928
r168 29 30 0.085
r169 27 46 0.0195743
r170 27 71 0.0728571
r171 25 29 0.0474919
r172 25 26 0.120417
r173 24 44 0.0920833
r174 22 26 0.0474919
r175 21 24 0.0474919
r176 21 22 0.566667
r177 19 46 0.0229752
r178 19 41 0.389583
r179 17 68 54.1667
r180 13 64 100
r181 8 61 6.3741
r182 8 10 45.8333
r183 7 58 6.3741
r184 6 7 227.083
r185 3 6 13.9682
r186 3 5 25
r187 2 44 0.0519666
.ends

.subckt PM_HAX1%OL 2 3 5 8 11 13 14 15 24 25 27 29 32 36
c88 36 0 0.254802f
c89 32 0 0.136426f
c90 29 0 0.0746195f
c91 27 0 0.0297073f
c92 25 0 0.0173475f
c93 24 0 0.131852f
c94 15 0 0.0106217f
c95 14 0 0.0760028f
c96 13 0 0.0151233f
c97 11 0 0.222675f
c98 8 0 0.702319f
c99 3 0 0.274788f
c100 2 0 0.101922f
r101 35 36 1.38889
r102 28 35 23.6111
r103 27 29 0.0519666
r104 27 28 7
r105 24 32 0.0519666
r106 19 25 0.0359928
r107 19 29 0.368333
r108 16 25 0.00935391
r109 16 24 0.48875
r110 14 25 0.0359928
r111 14 15 0.325833
r112 13 15 0.0474919
r113 12 22 0.018871
r114 12 13 0.085
r115 11 36 6.3741
r116 10 11 75
r117 6 35 6.3741
r118 6 8 197.917
r119 3 10 13.9682
r120 3 5 25
r121 2 22 0.0758929
.ends

.subckt PM_HAX1%N$11 3 4 6 10 12
c23 12 0 0.0770734f
c24 10 0 0.0658633f
c25 6 0 0.015484f
r26 6 10 0.0216719
r27 5 12 0.018871
r28 5 6 0.17
r29 4 12 0.0758929
r30 3 10 0.0661111
.ends

.subckt PM_HAX1%S 2 3 4 13 14 17
c21 17 0 0.107781f
c22 14 0 0.280241f
c23 13 0 0.14691f
c24 8 0 0.0847818f
c25 4 0 0.0657001f
c26 3 0 0.103704f
r27 13 15 0.0542887
r28 13 14 0.0542887
r29 8 17 0.0566888
r30 8 15 0.17
r31 5 14 0.538333
r32 3 5 0.0474919
r33 3 4 0.17
r34 2 4 0.0519666
.ends

.subckt PM_HAX1%B 3 6 10 11 12 15 18 19 20 24 27 31 34 40
c88 40 0 0.292568f
c89 34 0 0.0157899f
c90 31 0 0.157925f
c91 27 0 0.146698f
c92 24 0 0.436032f
c93 20 0 0.0868432f
c94 19 0 0.153326f
c95 18 0 0.319018f
c96 15 0 0.187699f
c97 12 0 0.0716174f
c98 11 0 0.755789f
c99 10 0 0.384301f
c100 6 0 0.0642828f
c101 3 0 0.734082f
r102 39 40 15.7865
r103 37 40 17.2216
r104 34 37 7
r105 29 31 27.0833
r106 25 27 33.3333
r107 22 24 75
r108 21 24 137.5
r109 19 21 13.9682
r110 19 20 29.1667
r111 18 20 13.9682
r112 17 31 1.46822
r113 17 18 114.583
r114 13 29 1.46822
r115 13 15 37.5
r116 11 22 13.9682
r117 11 12 229.167
r118 8 12 13.9682
r119 8 10 95.8333
r120 7 27 1.46822
r121 7 10 37.5
r122 6 25 1.46822
r123 5 40 5.98301
r124 5 6 25
r125 1 39 5.98301
r126 1 3 231.25
.ends

.subckt PM_HAX1%A 4 5 6 8 11 16 18 23 27 31 35 37 38 40 43
c104 43 0 0.147194f
c105 40 0 0.0419132f
c106 38 0 0.103896f
c107 37 0 0.216606f
c108 35 0 0.201959f
c109 31 0 0.171933f
c110 27 0 0.199127f
c111 23 0 0.369202f
c112 18 0 0.119733f
c113 16 0 0.321698f
c114 11 0 0.218386f
c115 8 0 0.244672f
c116 6 0 0.0738287f
c117 5 0 0.774402f
c118 4 0 0.535146f
r119 43 47 15.2843
r120 43 46 15.2843
r121 40 43 7
r122 37 38 18.7188
r123 33 35 43.75
r124 29 31 37.5
r125 25 27 47.9167
r126 23 38 87.5
r127 19 35 1.46822
r128 19 37 75
r129 18 33 1.46822
r130 18 47 37.5
r131 16 46 52.0833
r132 13 16 62.5
r133 9 31 1.46822
r134 9 11 37.5
r135 8 29 1.46822
r136 7 27 1.46822
r137 7 8 87.5
r138 5 13 13.9682
r139 5 6 233.333
r140 2 25 1.46822
r141 2 4 181.25
r142 1 6 13.9682
r143 1 4 25
.ends

